US07465731B2
To a stirred solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (330 mg) in dimethylformamide (6 mL) was added potassium carbonate (158 mg) and 1,1′-(bromomethylene)dibenzene (225 mg), and the mixture was stirred at 60° C. for 2 hours. The resulting mixture was poured into water and extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography (hexane:ethyl acetate=4:1 then chloroform:methanol=20:1) to give ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(diphenylmethyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (210 mg) as an oil.

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 330 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CNCC1 | C19H27N3O4
reactant | potassium carbonate | 158 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1′-(bromomethylene)dibenzene | 225 mg | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | water | O | H2O
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(diphenylmethyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 210 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C32H37N3O4
